US07994176B2
1-(4-Bromo-2,6-dichloro-benzyl)-3-(4-methoxy-cyclohexyl)-pyrrolidin-2-one
Treat a solution of 3-(4-methoxycyclohexyl)-pyrrolidin-2-one (0.0.71 g, 3.6 mmol) in DMF (20 mL) with a sodium hydride (0.0.29 mL, 7.2 mmol) and stir at room temperature for 10 minutes under N2. Treat the reaction with 5-Bromo-2-bromomethyl-1,3-dichloro-benzene (1.36 g, 4.3 mmol). Stir the mixture for 14 hours. Quench the reaction with water and extract with ethyl acetate. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify with 25% ethyl acetate in hexanes to afford 0.45 g of the title compound.

reactant | 3-(4-methoxycyclohexyl)-pyrrolidin-2-one | 3.6 mmol | COC1CCC(CC1)C1C(NCC1)=O | C11H19NO2
reactant | sodium hydride | 7.2 mmol | [H-].[Na+]
reactant | 5-Bromo-2-bromomethyl-1,3-dichloro-benzene | 4.3 mmol, 1.36 g | BrC=1C=C(C(=C(C1)Cl)CBr)Cl | C7H4Br2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-Bromo-2,6-dichloro-benzyl)-3-(4-methoxy-cyclohexyl)-pyrrolidin-2-one | 0.45 g | BrC1=CC(=C(CN2C(C(CC2)C2CCC(CC2)OC)=O)C(=C1)Cl)Cl | C18H22BrCl2NO2
